US08304419B2
To a solution of 3-bromo-1H-pyrrole-2-carbaldehyde (0.44 g, 2.53 mmol) in tert-butanol (5.0 ml) was added 2-methyl-2-butene/2M in THF (5.09 ml, 48.0 mmol). To the reaction mixture was added sodium phosphate mono-H2O (2.461 g, 17.70 mmol) and sodium chlorite (2.058 g, 22.76 mmol) dissolved in water (5.00 ml) at RT over a period of 15 min. The solution was stirred overnight. The reaction mixture was acidified to pH˜4 with 10% aqueous citric acid and extracted with EtOAc (5×30 mL). The organic layers were combined, dried over sodium sulfate filtered and evaporated. The crude material was triturated with minimal amount of EtOAc to afford 3-bromo-1H-pyrrole-2-carboxylic acid (0.35 g, 73% yield) as a tan solid. The filtrate solution was evaporated to afford an impure mixture of the product as an oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.55 (br. s., 1H) 12.00 (br. s., 1H) 6.96 (t, 1H) 6.26 (t, 1H). MS: m/z 188.0 (M−1).

reactant | 3-bromo-1H-pyrrole-2-carbaldehyde | 2.53 mmol, 0.44 g | BrC1=C(NC=C1)C=O | C5H4BrNO
reactant | 2-methyl-2-butene | 2M | CC(C)=CC | C5H10
reactant | THF | 48.0 mmol, 5.09 ml | C1CCOC1 | C4H8O
reactant | sodium chlorite | 22.76 mmol, 2.058 g | Cl(=O)[O-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tert-butanol | 5.0 ml | C(C)(C)(C)O | C4H10O
solvent | water | 5.00 ml | O | H2O
product | 3-bromo-1H-pyrrole-2-carboxylic acid | 0.35 g, 73% yield | BrC1=C(NC=C1)C(=O)O | C5H4BrNO2
